US07553833B2
In a manner similar to the method described in example 2 (method B), rac-(1S,2S,6R)-6′-chloro-2-(3-chlorophenyl)-6-(5-fluoro-2-methylphenyl)-spiro[cyclohexane-1,3′-[3H]indole]-2′,4(1′H)-dione (130.0 mg, 0.28 mmole) was reacted with NH2OH—HCl (97.3 mg, 1.40 mmol), NaOH (56.0 mg, 1.40 mmole) in EtOH-water (3/2, 5 mL) at refluxing for 3 hrs, followed by reacting with p-toluenesulfonyl chloride (114.4 mg, 0.60 mmol) in dichloromethane (10 mL) at room temperature for 2 hrs, and heating under microwave irradiation at 100° C. for 20 min. After diluted with AcOEt the mixture was washed with water, dried over Na2SO4 and concentrated. The residue was purified by chiral column chromatography to give (3R,4S,5S)-6′-chloro-3-(3-chlorophenyl)-5-(5-fluoro-2-methylphenyl)-1,1′,2,2′,3,5,6,7-octahydrospiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione (15.9 mg): HRMS (ES+) m/z Calcd for C26H21Cl2FN2O2+H [(M+H)+]: 483.1037, Found: 483.1036; (3R,4S,5S)-6′-chloro-5-(3-chlorophenyl)-3-(5-fluoro-2-methylphenyl)-1,1′,2,2′,3,5,6,7-octahydrospiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione (11.3 mg): HRMS (ES+) m/z Calcd for C26H21Cl2FN2O2+H [(M+H)+]: 483.1037, Found: 483.1037; (3S,4R,5R)-6′-chloro-5-(3-chlorophenyl)-3-(5-fluoro-2-methylphenyl)-1,1′,2,2′,3,5,6,7-octahydrospiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione (8.3 mg): HRMS (ES+) m/z Calcd for C26H21Cl2FN2O2+H [(M+H)+]: 483.1037, Found: 483.1036; (3S,4R,5R)-6′-chloro-3-(3-chlorophenyl)-5-(5-fluoro-2-methylphenyl)-1,1′,2,2′,3,5,6,7-octahydrospiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione (12.5 mg): HRMS (ES+) m/z Calcd for C26H21Cl2FN2O2+H [(M+H)+]: 483.1037, Found: 483.1038.

reactant | rac-(1S,2S,6R)-6′-chloro-2-(3-chlorophenyl)-6-(5-fluoro-2-methylphenyl)-spiro[cyclohexane-1,3′-[3H]indole]-2′,4(1′H)-dione | 0.28 mmole, 130.0 mg | ClC1=CC=C2C3(C(NC2=C1)=O)C(CC(CC3C3=C(C=CC(=C3)F)C)=O)C3=CC(=CC=C3)Cl | C26H20Cl2FNO2
reactant | NH2OH—HCl | 1.40 mmol, 97.3 mg | NO.Cl
reactant | NaOH | 1.40 mmole, 56.0 mg | [OH-].[Na+]
reactant | p-toluenesulfonyl chloride | 0.60 mmol, 114.4 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | EtOH water | 5 mL | CCO.O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | (3R,4S,5S)-6′-chloro-3-(3-chlorophenyl)-5-(5-fluoro-2-methylphenyl)-1,1′,2,2′,3,5,6,7-octahydrospiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione | 15.9 mg | ClC1=CC=C2[C@@]3(C(NC2=C1)=O)[C@H](CNC(C[C@H]3C3=C(C=CC(=C3)F)C)=O)C3=CC(=CC=C3)Cl | C26H21Cl2FN2O2
